US08389521B2
a. Synthesis of N-(3-methoxy-propyl)-C-(3-nitro-phenyl)-methanesulfonamide
3-metoxypropylamine (0.184 mL, 1.80 mmol) and triethylamine (0.3 mL) were added to a solution of (3-Nitrophenyl)methanesulfonyl chloride (0.35 g, 1.50 mmol) in acetonitrile (10 mL). The resulting solution was vigorously stirred for 3 h at room temperature and then diluted with cold water (30 ml), which lead to the formation of a precipitate. The precipitate was filtered off, washed with water (2×10 mL) and dried. Yield of N-(3-methoxy-propyl)-C-(3-nitro-phenyl)-methanesulfonamide 0.31 g (72%).

reactant | 3-metoxypropylamine | 1.80 mmol, 0.184 mL | COCCCN | C4H11NO
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | (3-Nitrophenyl)methanesulfonyl chloride | 1.50 mmol, 0.35 g | [N+](=O)([O-])C=1C=C(C=CC1)CS(=O)(=O)Cl | C7H6ClNO4S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | 30 ml | O | H2O
product | N-(3-methoxy-propyl)-C-(3-nitro-phenyl)-methanesulfonamide | COCCCNS(=O)(=O)CC1=CC(=CC=C1)[N+](=O)[O-] | C11H16N2O5S
